US07435837B2
Treatment of (±)-[(N-methyl-1-[7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (0.932 g, 3.4 mmol) with diisopropylethylamine (0.66 g, 5.11 mmol) and benzyl chloroformate (0.778 g, 4.08 mmol) generally according to the procedure described for Intermediate 12 provided 1.25 g (86%) of (±)-benzyl {[7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylcarbamate as a colorless oil.

reactant | N-methyl-1-[7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 3.4 mmol, 0.932 g | CNCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)Cl | C16H16ClNO
reactant | diisopropylethylamine | 5.11 mmol, 0.66 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 4.08 mmol, 0.778 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {[7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylcarbamate | 1.25 g, 86% | ClC1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CN(C(OCC2=CC=CC=C2)=O)C | C24H22ClNO3
